US06034150
Synthesis of 2-Acryloyl Ethylmaleimide (2AEMI)
2-Hydroxyethyl maleimide (5 g, 35.4 mmol) and Et3N (4.25 g, 43.0 mmol) was dissolved in 75 mL of methylene chloride and cooled to 0° C. Acryloyl chloride (3.20 g, 35.4 mmol) in 25 mL of methylene chloride was added dropwise over 30 minutes. The solution was stirred at room temperature for 30 minutes followed by refluxing for 1 hour. The triethylamine hydrochloride was removed by filtration and the yellow solution was concentrated. The yellow crystals were purified by sublimation yielding white crystals, m.p. 77-78° C. (5.00 g, 72.3%). 1H-NMR (CDCl3, δ, ppm): 3.81-3.87 (2H, --NCH2 --, t) 4.22-4.33 (2H, --OCH2 --, t), 5.81-5.85 (2H, CH2 =CH, cis), 6.00-6.13 (1H, CH2 =CH--, q), 6.34-6.42 (1H CH2 =CH, trans), 6.73 (2H, --OC--CH=CH--CO--, s). 13C-NMR (CDCl3, δ, ppm): 170.4 (2C, C=O, maleimide), 165.8 (1C, C=O, ester), 134.2 (2C, --CH=CH--), 131.45 (1C, --CH=), 127.9 (1C, CH2 =), 61.5 (1C, β--CH2 --), 36.8 (1C, α--CH2 --).

reactant | 2-Hydroxyethyl maleimide | 35.4 mmol, 5 g | OCCC=1C(=O)NC(C1)=O | C6H7NO3
reactant | Et3N | 43.0 mmol, 4.25 g | CCN(CC)CC | C6H15N
reactant | Acryloyl chloride | 35.4 mmol, 3.20 g | C(C=C)(=O)Cl | C3H3ClO
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-Acryloyl Ethylmaleimide | C(C=C)(=O)CCC=1C(=O)NC(C1)=O | C9H9NO3
